US08664401B2
Step C) 2-(4-bromophenyl)-2H-1,2,3-triazol-4-ol
2-(4-bromophenyl)-2H-1,2,3-triazol-4-yl acetate (520 mg, 1.84 mmol) was treated with methanol (10 ml) and water (10 ml) followed by 1,4-dioxane (5 ml). The resulting solution was treated with lithium hydroxide (265 mg, 11.1 mmol). The reaction mixture was stirred at RT for 36 hours. 1N HCl (40 ml) was added to the reaction mixture and the product was extracted with ethyl acetate (3×100 ml). The combined organic phases were dried over potassium carbonate, filtered, and concentrated. The crude material was purified by chromatography on silica gel (4:1 heptane:EtOAc 1:4 heptane:EtOAc) to furnish a light tan solid (440 mg, 98% TY). MS (LC/MS) m/z 240.21 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.33 (s, 1H) 7.58 (d, J=8.98 Hz, 2H) 7.78 (d, J=8.98 Hz, 2H).

reactant | 2-(4-bromophenyl)-2H-1,2,3-triazol-4-yl acetate | 1.84 mmol, 520 mg | C(C)(=O)OC1=NN(N=C1)C1=CC=C(C=C1)Br | C10H8BrN3O2
reactant | methanol | 10 ml | CO | CH4O
reactant | lithium hydroxide | 11.1 mmol, 265 mg | [OH-].[Li+]
reactant | HCl | 1N, 40 ml | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-(4-bromophenyl)-2H-1,2,3-triazol-4-ol | BrC1=CC=C(C=C1)N1N=CC(=N1)O | C8H6BrN3O
